US06743789B2
2-Chloro-4-(2,4-dimethoxy-benzyl)-7-bromo-3,4-dihydro-benzo[e][1,4]diazepin-5-one
4-(2,4-Dimethoxy-benzyl)-7-bromo-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione (3.0 g, 7.4 mmol) and N,N-dimethyl-p-toluidine (2.1 mL, 14.8 mmol) were mixed in toluene (30 mL) and heated to 100° C. Then phosphorus oxychloride (745 μL, 8.1 mmol) was added dropwise and heating at 100° C. was continued for 2.5 h. The resulting dark red solution was evaporated and the residue dissolved in THF (10 mL) and used directly in the subsequent step.

reactant | 4-(2,4-Dimethoxy-benzyl)-7-bromo-3,4-dihydro-1H-benzo[e][1,4]diazepine-2,5-dione | 7.4 mmol, 3.0 g | COC1=C(CN2CC(NC3=C(C2=O)C=C(C=C3)Br)=O)C=CC(=C1)OC | C18H17BrN2O4
reactant | N,N-dimethyl-p-toluidine | 14.8 mmol, 2.1 mL | CN(C1=CC=C(C=C1)C)C | C9H13N
reactant | phosphorus oxychloride | 8.1 mmol, 745 μL | P(=O)(Cl)(Cl)Cl | Cl3OP
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
product | 2-Chloro-4-(2,4-dimethoxy-benzyl)-7-bromo-3,4-dihydro-benzo[e][1,4]diazepin-5-one | ClC=1CN(C(C2=C(N1)C=CC(=C2)Br)=O)CC2=C(C=C(C=C2)OC)OC | C18H16BrClN2O3
